US05192776
To a stirring solution of 5.3 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride in 100 ml of benzene was added 2.37 ml of triethylamine followed by 1.00 ml of methyl isocyanate. The reaction mixture was stirred at ambient temperature for three hours and then evaporated to a semi-solid. The semi-solid was purified by means of high pressure liquid chromatography (silica gel; elution with 50% ethyl acetate/dichloromethane) to afford 5.14 g (93.3%) of 1-[(N-methylamino)carbonyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine, m.p. 107°-110° C.

reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride | 5.3 g | Cl.FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F
reactant | triethylamine | 2.37 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 1.00 ml | CN=C=O | C2H3NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-[(N-methylamino)carbonyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 5.14 g, 93.3% | CNC(=O)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C13H13F5N2O2
